US07087106B2
Synthesis of 3-Methyl-2,3′-bipyridyl
A 3-hydroxymethyl-2,3′-bipyridyl (42.3 mg, 0.227 mmole) solution containing methanol (5 ml) and 4N solution of hydrogen chloride in dry 1,4-dioxane (0.57 ml, 2.3 mmole) was hydrogenated in the presence of palladium on activated carbon catalyst (10%, 40 mg) at room temperature and ambient pressure for 3 hours. The catalyst was filtered off, washed with methanol (3×1 ml), and the combined methanolic solutions were evaporated under vacuum. The residue was dissolved in water (2 ml), sodium carbonate was added (0.1 g) and the solution was extracted with dichloromethane (3×2 ml). The combined dichloromethane solutions were dried (magnesium sulfate) and rotary evaporated at 2 mm Hg-45° C., giving the pure product (29.4 mg, 76%) as a colorless oil.

reactant | 3-hydroxymethyl-2,3′-bipyridyl | 0.227 mmole, 42.3 mg | OCC=1C(=NC=CC1)C=1C=NC=CC1 | C11H10N2O
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 2.3 mmole, 0.57 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | 3-Methyl-2,3′-bipyridyl | 29.4 mg, 76% | CC=1C(=NC=CC1)C=1C=NC=CC1 | C11H10N2
